US09428509B2
5-Chloro-1-isopropyl-1H-pyrazol-4-amine
To a suspension of 5-chloro-1-isopropyl-4-nitro-1H-pyrazole (1 equiv) and iron dust (3 equiv) in EtOH (0.26 M) was added ammonium chloride (3 equiv). The mixture was heated to 80° C. for 20 h then cooled to room temperature. The reaction was quenched with solid sodium bicarbonate and treated with ethyl acetate (0.09 M) with continuous stirring. The mixture was filtered and the filter cake was rinsed with ethyl acetate. The combined filtrate was dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by silica gel chromatography (1.5% MeOH in DCM) to provide the desired product (76% yield) as a brown oil. MS (ESI) m/z 160.1 [M+H]+.

reactant | 5-chloro-1-isopropyl-4-nitro-1H-pyrazole | 1 equiv | ClC1=C(C=NN1C(C)C)[N+](=O)[O-] | C6H8ClN3O2
reactant | ammonium chloride | 3 equiv | [Cl-].[NH4+]
solvent | EtOH | 0.26 M | CCO | C2H6O
catalyst | iron | 3 equiv | [Fe] | Fe
product | 5-Chloro-1-isopropyl-1H-pyrazol-4-amine | 76% yield | ClC1=C(C=NN1C(C)C)N | C6H10ClN3
